US04526608
To a solution of N-methyl-N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]hydroxyamine (700 mg, 1.93 mmol) in anhydrous THF (10 ml) is added methylisocyanate (220 mg, 2 eq.). The mixture is stirred at RT for 4 hours. The solvent and excess methlisocyanate are removed to yield N-methyl-N[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl](N-methyl)carbamoyloxyamine.

reactant | N-methyl-N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]hydroxyamine | 1.93 mmol, 700 mg | CN(C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-])O | C14H10ClF3N2O4
reactant | methylisocyanate | 220 mg, 2 eq. | CN=C=O | C2H3NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-methyl-N[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl](N-methyl)carbamoyloxyamine | CN(C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-])OC(NC)=O | C16H13ClF3N3O5
